US04886802
STEP A: 2-[[2-(5-chloro-1H-indol-3-yl)-ethyl]-amino]-acetonitrile
Using the procedure of Step A of Example 22, 21.4 g of 5-chlorotryptamine, 7.7 ml of chloroacetonitrile and 18.1 ml of 1,5-diaza[5,4,0]undec-5-ene in 210 ml of tetrahydrofuran were reacted to obtain 19.3 g of the expected product melting at 80° C.

reactant | 5-chlorotryptamine | 21.4 g | ClC1=CC=C2NC=C(CCN)C2=C1 | C10H11ClN2
reactant | chloroacetonitrile | 7.7 ml | ClCC#N | C2H2ClN
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
product | 2-[[2-(5-chloro-1H-indol-3-yl)-ethyl]-amino]-acetonitrile | 19.3 g | ClC=1C=C2C(=CNC2=CC1)CCNCC#N | C12H12ClN3
